US07582772B2
A solution of (3,4-dichloro-phenyl)-methanesulfonyl chloride (500 g, 1.93 mol) and acetone (470 mL) was added over 2 h to cooled (0-5° C.), stirred concentrated ammonium hydroxide (28%, 900 mL, 227 g NH3, 13.3 mol). The reaction mixture was maintained below 12° C. during the addition. The reaction mixture was allowed to warm to room temperature and was stirred for 1 h. Water (900 mL) was added to the reaction mixture and it was stirred for 1 h. The white solid was collected by filtration, washed with cold water (2×500 mL), and vacuum dried to give 375 g (81%) of (3,4-dichloro-phenyl)-methanesulfonamide with 99% purity (as determined by HPLC).

reactant | (3,4-dichloro-phenyl)-methanesulfonyl chloride | 1.93 mol, 500 g | ClC=1C=C(C=CC1Cl)CS(=O)(=O)Cl | C7H5Cl3O2S
reactant | acetone | 470 mL | CC(=O)C | C3H6O
reactant | ammonium hydroxide | 13.3 mol, 900 mL, 227 g | [OH-].[NH4+]
solvent | Water | 900 mL | O | H2O
product | (3,4-dichloro-phenyl)-methanesulfonamide | 375 g, 81% | ClC=1C=C(C=CC1Cl)CS(=O)(=O)N | C7H7Cl2NO2S
